US08633173B2
1-[1-(4-Bromo-phenyl)-piperidin-4-yl]-4-methyl-piperazine was prepared from 1-methyl-4-piperidin-4-yl-piperazine (0.50 g, 2.7 mmol) and 4-bromobenzeneboronic acid (0.50 g, 2.5 mmol) in a manner analogous to Step 49a. The reaction product isolated as a tan solid (0.077 g, 9%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.32 (d, J=7.9 Hz, 2H), 6.79 (d, J=7.7 Hz, 2H), 3.72-3.65 (m, 2H), 2.85-2.35 (m, 14H), 2.00-1.90 (m, 2H), 1.73-1.60 (m, 2H). MS=338, 340 (MH)+.

reactant | 1-methyl-4-piperidin-4-yl-piperazine | 2.7 mmol, 0.50 g | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | 4-bromobenzeneboronic acid | 2.5 mmol, 0.50 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
product | 1-[1-(4-Bromo-phenyl)-piperidin-4-yl]-4-methyl-piperazine | BrC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C16H24BrN3
